US05185342
To a solution of (E)-methyl-2-[2-(3-methylphenoxy)phenyl]-2-methoxyiminoacetate (4.60 g) in benzene (120 ml), N-bromosuccinimide (2.88 g) and benzoyl peroxide (0.37 g) were added, and the resultant mixture was refluxed for 1 hour, followed by cooling to room temperature. Insoluble materials were removed by filtration and, after removal of the solvent, the residue was purified by silica gel column chromatography to give (E)-methyl-2-[2-(3-bromomethylphenoxy)phenyl]-2-methoxyiminoacetate (4.60 g).

reactant | (E)-methyl-2-[2-(3-methylphenoxy)phenyl]-2-methoxyiminoacetate | 4.60 g | COC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC(=CC=C1)C)=O | C17H17NO4
reactant | N-bromosuccinimide | 2.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.37 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | (E)-methyl-2-[2-(3-bromomethylphenoxy)phenyl]-2-methoxyiminoacetate | 4.60 g | COC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC(=CC=C1)CBr)=O | C17H16BrNO4
